US06998409B2
Acetic acid (0.448 ml) was added to a solution of 4-dimethylamino-4-pyridin-2-yl cyclohexanone (873 mg) and tryptamine (640 mg) in dry tetrahydrofuran (40 ml) and anhydrous 1,2-dichloroethane (10 ml) and stirred for 15 min. Following addition of sodium triacetoxyboron hydride (1.2 g) the reaction mixture was stirred for three days under argon at room temperature. To recover the product the solvent was removed in vacuo, the residue taken up in 1N sodium hydroxide solution (40 ml) and diethyl ether (40 ml), the phases separated, the aqueous phase extracted with diethyl ether (2×30 ml), the organic phases combined, dried and concentrated to low volume. The resulting raw product was separated by column chromatography on silica gel with methanol and methanol/ammonia (100:1). The non-polar diastereoisomer of N′-[2-(1H-indol-3-yl)ethyl]-N,N-dimethyl-1-pyridin-2-yl cyclohexane-1,4-diamine was obtained as a white solid (617 mg; mp 150–152° C.).

reactant | Acetic acid | 0.448 ml | C(C)(=O)O | C2H4O2
reactant | 4-dimethylamino-4-pyridin-2-yl cyclohexanone | 873 mg | CN(C1(CCC(CC1)=O)C1=NC=CC=C1)C | C13H18N2O
reactant | tryptamine | 640 mg | NCCC1=CNC2=CC=CC=C12 | C10H12N2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | N′-[2-(1H-indol-3-yl)ethyl]-N,N-dimethyl-1-pyridin-2-yl cyclohexane-1,4-diamine | N1C=C(C2=CC=CC=C12)CCNC1CCC(CC1)(N(C)C)C1=NC=CC=C1 | C23H30N4
